US06251905B1
v) Synthesis of 4,5-dihydro-4-[3-(trifluoromethanesulfonamido)propan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3-one.hydrochloride
In a mixture solution consisting of 5 ml of ethanol and 0.1 ml of 12N HCl was dissolved 145 mg (0.40 mmol) of 4,5-dihydro-4-[3-(trifluoromethanesulfonamido)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one. The solvent was distilled off under reduced pressure to leave 160 mg of the desired compound (100%, pale yellow solid substance).

reactant | HCl | 12N, 0.1 ml | Cl | ClH
reactant | 4,5-dihydro-4-[3-(trifluoromethanesulfonamido)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 0.40 mmol, 145 mg | FC(S(=O)(=O)NCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C13H13F3N4O3S
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-[3-(trifluoromethanesulfonamido)propan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3-one.hydrochloride | 160 mg, 100% | Cl.FC(S(=O)(=O)NCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | InChI=1S/C13H13F3N4O3S.ClH/c14-13(15,16)24(22,23)18-5-2-6-19-8-9-3-1-4-11-17-7-10(12(19)21)20(9)11;/h1,3-4,7,18H,2,5-6,8H2;1H
